US06403601B1
(b) Methyl 3-hydroxy-1-naphthalenecarboxylate
To a stirred solution of 3-hydroxy-1-naphthalenecarboxylic acid (6.67 g, 35.4 mmol) and oxalyl chloride (3.86 mL, 44.2 mmol) in DCM (150 mL) was added 3 drops of DMF. The mixture was stirred at room temperature for 3 h., the solvent was removed under reduced pressure and methanol (150 mL) was added. After stirring at reflux for 15 min the solvent was removed under reduced pressure, the residue was purified by column chromatography (10%, 20% and 30% EtOAc/hexane) to give the title compound as a yellow solid (2.5 g, 35%). 1H NMR (DMSO-d6) δ 10.10 (s, 1H), 8.61 (d, 1H), 7.77 (d, 1H), 7.72 (d, 1H), 7.47 (m, 2H), 7.38 (d, 1H), 3.93 (s, 3H); MS m/z 201.1 (M−H).

reactant | 3-hydroxy-1-naphthalenecarboxylic acid | 35.4 mmol, 6.67 g | OC=1C=C(C2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | oxalyl chloride | 44.2 mmol, 3.86 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | Methyl 3-hydroxy-1-naphthalenecarboxylate | 2.5 g, 35% | OC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C12H10O3
